US07141562B2
1-Benzyl-5-piperazin-1-yl-1H-benzo[4,2,1]oxathiazine 2,2-dioxide hydrochloride
4-(1-Benzyl-2,2-dioxo-2,3-dihydro-1H-benzo[4,2,1]oxathiazin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester was dissolved in 1 mL methanol and 1 mL of 2N ethanolic HCl was added. The solution is heated at 100° C. for 30 minutes, at which time was added approximately. 2 mL Et2O. On cooling to room temperature, 30 mg of 1-benzyl-5-piperazin-1-yl-1H-benzo[4,2,1]oxathiazine 2,2-dioxide hydrochloride precipitated as a white solid (61%). (M+H)+=360.

reactant | 4-(1-Benzyl-2,2-dioxo-2,3-dihydro-1H-benzo[4,2,1]oxathiazin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC2=C1OCS(N2CC2=CC=CC=C2)(=O)=O | C23H29N3O5S
reactant | HCl | 2N, 1 mL | Cl | ClH
reactant | Et2O | 2 mL | CCOCC | C4H10O
solvent | methanol | 1 mL | CO | CH4O
product | 1-Benzyl-5-piperazin-1-yl-1H-benzo[4,2,1]oxathiazine 2,2-dioxide hydrochloride | Cl.C(C1=CC=CC=C1)N1S(COC2=C1C=CC=C2N2CCNCC2)(=O)=O | InChI=1S/C18H21N3O3S.ClH/c22-25(23)14-24-18-16(20-11-9-19-10-12-20)7-4-8-17(18)21(25)13-15-5-2-1-3-6-15;/h1-8,19H,9-14H2;1H
